US04841042
Allyl (5R,6S)-2-(4-pyridylthio)-6-[(1R)-1-hydroxyethyl]-carbapen-2-em-3-carboxylate
3.69 ml (64.5 mmol - 10 equivalents) of glacial acetic acid and 19.3 ml (19.3 mmol - 3 equivalents) of a 1M solution of tetrabutylammonium fluoride in THF were added to a solution, which had been cooled to 0° C., of 2.97 g (6.5 mmol) of allyl (5R,6S)-2-(4-pyridylthio)-6-[(1R)-1-tert.-butyldimethylsilyloxyethyl]carbapen-2-em-3-carboxylate in 60 ml of THF. The cooling bath was removed and the reaction solution was allowed to stand at room temperature for 62 h. To work up, it was poured a into a mixture of cold, saturated NaHCO3 solution and ethyl acetate, extraction with ethyl acetate was carried out, followed by washing with saturated NaHCO3 and NaCl solutions and drying over MgSO4. After evaporation of the solvent in vacuo and chromatography of the residue on 360 g of silica gel (toluene:ethyl acetate 9:1), 472 mg (21%) of the title compound were obtained as an oil, Rf: 0.24 (toluene:ethyl acetate 9:1).

reactant | acetic acid | 3.69 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | allyl (5R,6S)-2-(4-pyridylthio)-6-[(1R)-1-tert.-butyldimethylsilyloxyethyl]carbapen-2-em-3-carboxylate | 6.5 mmol, 2.97 g | N1=CC=C(C=C1)SC=1C[C@H]2N(C1C(=O)OCC=C)C([C@H]2[C@@H](CO[SiH](C)C)C(C)(C)C)=O | C23H32N2O4SSi
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | Allyl (5R,6S)-2-(4-pyridylthio)-6-[(1R)-1-hydroxyethyl]-carbapen-2-em-3-carboxylate | 472 mg, 21% | N1=CC=C(C=C1)SC=1C[C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O | C17H18N2O4S
